US06933311B2
N-(4-tert-butylbenzyl)-N′-(1-methyl-1H-indazol-4-yl)urea
4-tert-Butylbenzylamine (0.46 mL, 2.62 mmol) in toluene (8 mL) was treated with 20% phosgene solution (1.4 mL) and refluxed for 3 hours. The mixture was allowed to cool to ambient temperature and concentrated under reduced pressure. The residue was then taken up in toluene (10 mL) and treated with diisopropylamine (3 mL) and 1-methyl-1H-indazol-4-amine (prepared as described in J. Med. Chem. 45:742 (2002); 200 mg, 1.36 mmol). The reaction mixture was heated at 80° C. for 3 hours, allowed to cool to ambient temperature, and concentrated under reduced pressure. The residue was purified by flash chromatography (98:2 CH2C12:CH3OH to 95:5 CH2Cl2:CH3OH, eluant gradient) to provide the title compound. The corresponding hydrochloride salt was prepared with methanolic HCl. 1H NMR (300 MHz, d6-DMSO) δ 8.72 (s, 1H), 8.03 (d, J=0.7 Hz, 1H), 7.66 (dd, J=7.8 Hz, 0.6 Hz, 1H), 7.37 (m, 2H), 7.27 (m, 2H), 7.24 (m, 1H), 7.13 (m, 1H), 6.74 (m, 1H), 4.30 (d, J=5.8 Hz, 2H), 3.99 (s, 3H), 1.27 (s, 9H); MS (ESI+) m/z 337 (M+H)+.

reactant | 4-tert-Butylbenzylamine | 2.62 mmol, 0.46 mL | C(C)(C)(C)C1=CC=C(CN)C=C1 | C11H17N
reactant | phosgene | 1.4 mL | C(=O)(Cl)Cl | CCl2O
reactant | diisopropylamine | 3 mL | C(C)(C)NC(C)C | C6H15N
reactant | 1-methyl-1H-indazol-4-amine | 1.36 mmol, 200 mg | CN1N=CC=2C(=CC=CC12)N | C8H9N3
solvent | toluene | 8 mL | C1(=CC=CC=C1)C | C7H8
product | N-(4-tert-butylbenzyl)-N′-(1-methyl-1H-indazol-4-yl)urea | C(C)(C)(C)C1=CC=C(CNC(=O)NC2=C3C=NN(C3=CC=C2)C)C=C1 | C20H24N4O
